US08067445B2
Step 6: (5-Chloro-2′-ethylaminomethyl-4′-fluoro-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (5-chloro-4′-fluoro-2′-formyl-biphenyl-3-yl)-acetic acid ethyl ester and ethylamine (2M in THF).

reactant | (5-chloro-4′-fluoro-2′-formyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)F)C=O)=O | C17H14ClFO3
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (5-Chloro-2′-ethylaminomethyl-4′-fluoro-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)F)CNCC)=O | C19H21ClFNO2
